US06352993B1
6-methoxymethyl-5-methyl-2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.62 ml, 4.5 mmol) and triethylamine (0.63 ml, 4.5 mmol) were added to a solution of 6-methoxymethyl-5-methyl-2-chloro4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.96 g, 3 mmol) in dimethylformamide(5 ml), 600 mg of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | 2-methyl-4-fluoroaniline | 4.5 mmol, 0.62 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | triethylamine | 4.5 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methoxymethyl-5-methyl-2-chloro4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 3 mmol, 0.96 g | COCC1=C(C(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C)C | C17H20ClN3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-methoxymethyl-5-methyl-2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 600 mg, Yield: 47% | Cl.COCC1=C(C(=NC(=N1)NC1=C(C=C(C=C1)F)C)N1C(C2=CC=CC=C2CC1)C)C | InChI=1S/C24H27FN4O.ClH/c1-15-13-19(25)9-10-21(15)26-24-27-22(14-30-4)16(2)23(28-24)29-12-11-18-7-5-6-8-20(18)17(29)3;/h5-10,13,17H,11-12,14H2,1-4H3,(H,26,27,28);1H
